US05576322
4-(3,4-Dihydroxybenzyl)amino-6,7,8-trimethoxyquinazoline hydrochloride
30 ml of a 1.0M solution of boron trichloride in methylene chloride was dropped into a solution of 2.00 g (5.41 mmol) of 4-(3,4-methylenedioxybenzyl)amino-6,7,8-trimethoxyquinazoline in 150 ml of chloroform under stirring at room temperature. The obtained mixture was stirred at room temperature for 2 days, followed by the addition of methanol and the obtained mixture was distilled under a reduced pressure to remove the solvent. This procedure was repeated thrice and the obtained residue was purified by silica gel column chromatography (chloroform/n-hexane). Hydrochloric acid/ethanol was added to the eluate and the obtained mixture was distilled under a reduced pressure to remove the solvent, followed by the addition of ethanol. The crystals thus formed were recovered by filtration. Thus, 0.59 g of the title compound was obtained as a colorless needle.

reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | 4-(3,4-methylenedioxybenzyl)amino-6,7,8-trimethoxyquinazoline | 5.41 mmol, 2.00 g | C1OC=2C=C(CNC3=NC=NC4=C(C(=C(C=C34)OC)OC)OC)C=CC2O1 | C19H19N3O5
reactant | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(3,4-Dihydroxybenzyl)amino-6,7,8-trimethoxyquinazoline hydrochloride | 0.59 g | Cl.OC=1C=C(CNC2=NC=NC3=C(C(=C(C=C23)OC)OC)OC)C=CC1O | InChI=1S/C18H19N3O5.ClH/c1-24-14-7-11-15(17(26-3)16(14)25-2)20-9-21-18(11)19-8-10-4-5-12(22)13(23)6-10;/h4-7,9,22-23H,8H2,1-3H3,(H,19,20,21);1H
